data/oMe_Silver.jsonl
{"reaction_id": "NR-319_1-c1ccc(C(F)(F)F)cc1_2-C(C)C_3-CCC_4-c1ccc(OC)cc1","level": "medium","name": "Wharton Reaction","reactants_smiles": ["C(=O)(c1ccc(C(F)(F)F)cc1)C1(C(C)C)OC1(CCC)c1ccc(OC)cc1","NN"],"products_smiles": ["[CH](=C(C(C)C)C(O)(CCC)c1ccc(OC)cc1)c1ccc(C(F)(F)F)cc1"],"conditions": "Acid/Base catalyst (e.g., Acetic Acid)","mechanism_step_nums": 5,"mechanism": [{"step": 1,"type": "substitution","subtype": "nucleophilic_substitution","intermediate_smiles": "C(=NN)(c1ccc(C(F)(F)F)cc1)C1(C(C)C)OC1(CCC)c1ccc(OC)cc1","step_weight": 0,"rationale": "Hydrazine acts as a nucleophile, attacking the electrophilic carbonyl carbon due to its partial positive charge, facilitated by acid/base catalysis that activates the carbonyl."},{"step": 2,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[NH2+]=NC(c1ccc(C(F)(F)F)cc1)=C(C(C)C)C(O)(CCC)c1ccc(OC)cc1","step_weight": 0,"rationale": "Protonation of the leaving group and resonance stabilization of the diazonium-like intermediate promote elimination of the cyclic ether moiety."},{"step": 3,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "N=NC(c1ccc(C(F)(F)F)cc1)=C(C(C)C)C(O)(CCC)c1ccc(OC)cc1","step_weight": 0,"rationale": "Proton transfer neutralizes charge and generates the neutral diazene, stabilizing the intermediate for the next elimination step."},{"step": 5,"type": "elimination","subtype": "leaving_group_elimination","intermediate_smiles": "[C-](=C(C(C)C)C(O)(CCC)c1ccc(OC)cc1)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Loss of nitrogen gas is highly favorable due to its inertness and strong N≡N bond, forming a carbanion stabilized by adjacent substituents."},{"step": 6,"type": "proton_transfer","subtype": "acid_base_proton_transfer","intermediate_smiles": "[CH](=C(C(C)C)C(O)(CCC)c1ccc(OC)cc1)c1ccc(C(F)(F)F)cc1","step_weight": 0,"rationale": "Protonation of the carbanion yields the alkene, driven by the thermodynamic stability of the C=C bond and relief of negative charge."}],"description": "In the Wharton reaction, hydrazine attacks the carbonyl to form a hydrazone, which under acidic/basic conditions eliminates to form a diazene intermediate. Subsequent proton transfers and nitrogen extrusion yield the alkene, driven by the stability of N₂ and conjugated product."}
{"reaction_id": "NR-142_1-c1cocc1C_2-C_3-c1ccccc1","name": "Meisenheimer Rearrangement","level": "medium","reactants_smiles": ["[N+]([O-])(c1cocc1C)(C)(c1ccccc1)"],"products_smiles": ["N(Oc1cocc1C)(C)(c1ccccc1)"],"conditions": "Heat","mechanism": [{"step": 1,"type": "pericyclic","subtype": "sigmatropic_rearrangement","intermediate_smiles": "N(Oc1cocc1C)(C)(c1ccccc1)","rationale": "Thermal energy promotes a concerted [2,3]-sigmatropic shift, favored by the N-oxide’s ability to delocalize electron density and stabilize the transition state through resonance between nitrogen and oxygen."}],"description": "Upon heating, the N-oxide undergoes a [2,3]-sigmatropic rearrangement (Meisenheimer rearrangement), shifting the c1cocc1C group from nitrogen to oxygen. This pericyclic process is thermally allowed and driven by the formation of a strong N–O bond and relief of electronic strain."}
